US08217065B2
A. 4-Chloro-benzoic acid N′-(4-amino-3-nitro-benzoyl)-hydrazide
To 4-Chloro-benzoic acid hydrazide (5.0 g, 29 mmol) and 4-Amino-3-nitro-benzoic acid (5.3 g, 29 mmol) in DMF (100 mL) was added HOBT (3.9 g, 29 mmol), and EDCI (5.5 g, 29 mmol), followed by triethylamine (12.1 mL, 87 mmol). The mixture was stirred at ambient temperature for 18 hours. Water (50 mL) was added to the reaction mixture. The precipitate was collected by filtration, washed with water, and dried under vacuum to provide the title compound as a yellow solid. 1H NMR(DMSO-d6, 400MHz) δ ppm 7.08 (d, J=8.97 Hz, 1 H) 7.61 (m, 2 H) 7.82-7.97 (m, 5 H) 8.66 (d,J=2.15 Hz, 1 H) 10.52 (s, 1 H) 10.57 (s, 1 H; (M+H)+=335.0

reactant | 4-Chloro-benzoic acid hydrazide | 29 mmol, 5.0 g | ClC1=CC=C(C(=O)NN)C=C1 | C7H7ClN2O
reactant | 4-Amino-3-nitro-benzoic acid | 29 mmol, 5.3 g | NC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | HOBT | 29 mmol, 3.9 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 29 mmol, 5.5 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 87 mmol, 12.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | Water | 50 mL | O | H2O
product | 4-Chloro-benzoic acid N′-(4-amino-3-nitro-benzoyl)-hydrazide | NC1=C(C=C(C(=O)NNC(C2=CC=C(C=C2)Cl)=O)C=C1)[N+](=O)[O-] | C14H11ClN4O4
